US07589206B2
(a) 4-Chloro-1-methyl-1H-pyrrolo[3,2-c]pyridine-7-carboxylic acid
To a solution of 4-chloro-1-methyl-1H-pyrrolo[3,2-c]pyridine-7-carboxylic acid methyl ester (0.5 g), in methanol (20 ml) was added aqueous 2M sodium hydroxide solution (2 ml) and the mixture was heated to reflux for 4 hours. The methanol was evaporated and the residue was dissolved in water (50 ml) and acidified to pH 1 using aqueous 2M hydrochloric acid. Solid sodium chloride was added to saturated the aqueous phase, the solution was extracted with tetrahydrofuran (2×50 ml). The tetrahydrofuran layers were combined and evaporated to afford the title compound (460 mg).

reactant | 4-chloro-1-methyl-1H-pyrrolo[3,2-c]pyridine-7-carboxylic acid methyl ester | 0.5 g | COC(=O)C=1C2=C(C(=NC1)Cl)C=CN2C | C10H9ClN2O2
reactant | sodium hydroxide | 2M, 2 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 4-Chloro-1-methyl-1H-pyrrolo[3,2-c]pyridine-7-carboxylic acid | 460 mg | ClC1=NC=C(C2=C1C=CN2C)C(=O)O | C9H7ClN2O2
